US04728645
A solution of 3.21 g of 4-[3-(4-tert-butylaminocarbonylphenyl)-3-hydroxyprop-1-yl]-1-tritylimidazole and 1.5 ml of thionyl chloride in 50 ml of methylene chloride is refluxed for 1 h, cooled and poured into 50 ml of ice-cold sodium bicarbonate solution. The organic phase is separated, dried over sodium sulfate and evaporated to yield 4-[3-(4-tert-butylaminocarbonylphenyl)-3-chloroprop-1-yl]-1-tritylimidazole as a white foam. NMR (CDCl3): δ=1.45 (s, 9H), 4.30 (t, J=6.0 Hz, 2H).

reactant | 4-[3-(4-tert-butylaminocarbonylphenyl)-3-hydroxyprop-1-yl]-1-tritylimidazole | 3.21 g | C(C)(C)(C)NC(=O)C1=CC=C(C=C1)C(CCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O | C36H37N3O2
reactant | thionyl chloride | 1.5 ml | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-(4-tert-butylaminocarbonylphenyl)-3-chloroprop-1-yl]-1-tritylimidazole | C(C)(C)(C)NC(=O)C1=CC=C(C=C1)C(CCC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)Cl | C36H36ClN3O
